US07563907B2
1-(5-carboxy-pentyl)-2-[(E)-2-(7-diethylamino-2-oxo-2H-chromen3-yl)-vinyl]-pyridinium bromide
0.2 mmol 7-diethylamino-2-oxo-2H-chromen-3-carbaldehyde and 0.2 mmol 1-(5-carboxy-pentyl)-2-methyl-pyridinium bromide are converted according to the general directions above. Column chromatography: SiO2, eluent: ethanol/toluene.

reactant | 7-diethylamino-2-oxo-2H-chromen-3-carbaldehyde | 0.2 mmol | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)C=O)CC | C14H15NO3
reactant | 1-(5-carboxy-pentyl)-2-methyl-pyridinium bromide | 0.2 mmol | [Br-].C(=O)(O)CCCCC[N+]1=C(C=CC=C1)C
solvent | ethanol toluene | C(C)O.C1(=CC=CC=C1)C
product | 1-(5-carboxy-pentyl)-2-[(E)-2-(7-diethylamino-2-oxo-2H-chromen3-yl)-vinyl]-pyridinium bromide | [Br-].C(=O)(O)CCCCC[N+]1=C(C=CC=C1)\C=C\C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | InChI=1S/C26H30N2O4.BrH/c1-3-27(4-2)23-15-12-20-18-21(26(31)32-24(20)19-23)13-14-22-10-7-9-17-28(22)16-8-5-6-11-25(29)30;/h7,9-10,12-15,17-19H,3-6,8,11,16H2,1-2H3;1H
